US06939887B2
Synthesis of ethyl 3-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate
Ethyl 3-chlorobenzylcarbamate (720.3 mg) and 2-chloro-3,5-dinitrobenzotrifluoride (829.1 mg) were dissolved in tetrahydrofuran (20 ml), and to the solution was added sodium hydride (147.1 mg). The reaction mixture was heated at reflux for 1.5 hours. After allowing to cool, to the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (75 g, hexane:ethyl acetate=10:1) to give the title compound (129.5 mg, 9%).

reactant | Ethyl 3-chlorobenzylcarbamate | 720.3 mg | ClC=1C=C(CNC(OCC)=O)C=CC1 | C10H12ClNO2
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 829.1 mg | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | sodium hydride | 147.1 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 3-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 129.5 mg, 9% | ClC=1C=C(CN(C(OCC)=O)C2=C(C=C(C=C2C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])C=CC1 | C17H13ClF3N3O6
